US06605635B1
4-Methylaminophenol sulfate and equivalent 4-acetamidobenzenesulfonyl chloride and double equivalent triethylamine were reacted in ethanol at room temperature for 4 hours. After the solvent was removed in vacuo, the residue was extracted with diethyl ether. The ether layer was washed successively with 2 N hydrochloric acid, saturated aqueous NaHCO3 solution and water, then dried over anhydrous Na2SO4 The solvent was removed and the residue was recrystallized from ethanol to give N-(4-hydroxyphenyl)-N-methyl-4-acetamidobenzenesulfonamide, mp 202-203° C.

reactant | 4-Methylaminophenol sulfate | S(=O)(=O)(O)OC1=CC=C(C=C1)NC | C7H9NO4S
reactant | 4-acetamidobenzenesulfonyl chloride | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)Cl | C8H8ClNO3S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | ethanol | C(C)O | C2H6O
product | N-(4-hydroxyphenyl)-N-methyl-4-acetamidobenzenesulfonamide | OC1=CC=C(C=C1)N(S(=O)(=O)C1=CC=C(C=C1)NC(C)=O)C | C15H16N2O4S
